US08034812B2
Production of N-(3-{[2-(acetylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-1-methyl-1H-imidazole-5-carboxamide
Using 1-methyl-1H-imidazole-5-carboxylic acid (80 mg, 0.64 mol), tetrahydrofuran (3.0 mL), N,N-dimethylformamide (30 μL, 0.39 mmol), oxalyl chloride (111 μL, 1.27=mol), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]acetamide (150 mg, 0.53 mmol) and N,N-dimethylacetamide (3.0 mL) as starting materials and in the same manner as in Example 119, the title compound (98 mg, 47%) was obtained as a white powder.

reactant | 1-methyl-1H-imidazole-5-carboxylic acid | 0.64 mol, 80 mg | CN1C=NC=C1C(=O)O | C5H6N2O2
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 111 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]acetamide | 0.53 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(C)=O)C=CC1 | C14H13N5O2
solvent | N,N-dimethylacetamide | 3.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | N-(3-{[2-(acetylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-1-methyl-1H-imidazole-5-carboxamide | 98 mg, 47% | C(C)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CN=CN2C)C1 | C19H17N7O3
